US04742057
A mixture of 2-amino-4-chloromethylthiazole hydrochloride (2 g) and benzoic anhydride (10 g) was stirred at 116° C. for 3 hours and 40 minutes. The reaction mixture was diluted with n-hexane (200 ml) and refluxed for 30 minutes, followed by cooling. The resulting precipitate was collected by filtration and washed with n-hexane to give a crude product. This crude product was subjected to column chromatography on silica gel and elution was carried out with chloroform to give 2-benzoylamino-4-chloromethylthiazole as a pure product (1.28 g).

reactant | 2-amino-4-chloromethylthiazole hydrochloride | 2 g | Cl.NC=1SC=C(N1)CCl
reactant | benzoic anhydride | 10 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | n-hexane | 200 ml | CCCCCC | C6H14
product | 2-benzoylamino-4-chloromethylthiazole | C(C1=CC=CC=C1)(=O)NC=1SC=C(N1)CCl | C11H9ClN2OS
